US09315458B2
C) methyl 2-hydroxy-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate
To a solution of methyl 5-bromo-2-hydroxy-4-methylbenzoate (3.20 g) in toluene (95.0 mL) were added bis(pinacolato)diboron (4.97 g), potassium acetate (3.84 g) and trans-dichlorobis(triphenylphosphine)palladium(II) (0.46 g), and the mixture was stirred at 110° C. for 15 hr under argon atmosphere. The reaction mixture was allowed to be cooled to room temperature, water and ethyl acetate were added thereto, and the mixture was partitioned. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (3.84 g).

reactant | methyl 5-bromo-2-hydroxy-4-methylbenzoate | 3.20 g | BrC=1C(=CC(=C(C(=O)OC)C1)O)C | C9H9BrO3
reactant | bis(pinacolato)diboron | 4.97 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.84 g | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | toluene | 95.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | trans-dichlorobis(triphenylphosphine)palladium(II) | 0.46 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-hydroxy-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 3.84 g | OC1=C(C(=O)OC)C=C(C(=C1)C)B1OC(C(O1)(C)C)(C)C | C15H21BO5
